US06555552B2
1-(Vinyloxy)-2-iodo-4-(trifluoromethoxy)benzene
To 1-(2-chloroethoxy)-2-iodo-4-(trifluoromethoxy)benzene (Description 10; 12.1 g, 33 mmol) in tetrahydrofuran (50 mL) at −5° C. was slowly added potassium tert-butoxide (3.7 g, 33 mmol). After addition was complete, the solution was allowed to stir to room temperature for 20 hours, and was then quenched with water (100 mL). The mixture was extracted with 50% diethyl ether/hexane (2×100 mL) and the extracts dried (MgSO4). Concentration gave an oil which was purified by silica chromatography to give the title compound as an oil (7.62 g, 23 mmol).

reactant | 1-(2-chloroethoxy)-2-iodo-4-(trifluoromethoxy)benzene | 33 mmol, 12.1 g | ClCCOC1=C(C=C(C=C1)OC(F)(F)F)I | C9H7ClF3IO2
reactant | potassium tert-butoxide | 33 mmol, 3.7 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(Vinyloxy)-2-iodo-4-(trifluoromethoxy)benzene | 23 mmol, 7.62 g | C(=C)OC1=C(C=C(C=C1)OC(F)(F)F)I | C9H6F3IO2
